US07064142B2
Production of 2-(3-cyanophenyl)-4,4-bis(4-fluorophenyl)-5-methyl-2-imidazoline
1,1-bis(4-fluorophenyl)-1,2-propanediamine(50 mg) was dissolved in methanol(1 mL), and to the solution was added 3-cyanobenzeneimidic acid methyl ester (75 mg). The mixture was stirred at room temperature for 24 hrs. After chloroform (5 ml) was added to the reaction mixture, insolubles were removed by filtration. After concentrating the filtrate in vacuo, the obtained residue was purified by silica gel column chromatography (C-300; hexane:ethyl acetate=3:1→1:1) to give the objective compound (10 mg).

reactant | 1,1-bis(4-fluorophenyl)-1,2-propanediamine | 50 mg | FC1=CC=C(C=C1)C(C(C)N)(N)C1=CC=C(C=C1)F | C15H16F2N2
reactant | 3-cyanobenzeneimidic acid methyl ester | 75 mg | COC(=N)C1=CC(=CC=C1)C#N | C9H8N2O
reactant | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 1 mL | CO | CH4O
product | 2-(3-cyanophenyl)-4,4-bis(4-fluorophenyl)-5-methyl-2-imidazoline | 10 mg | C(#N)C=1C=C(C=CC1)C=1NC(C(N1)(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)C | C23H17F2N3
